US09126999B2
Example ER-896386 was prepared in two steps from 3-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoic acid (119 mg, 0.266 mmol) and commercially available tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (226 mg, 1.06 mmol) in a manner similar to that of example D-6 to afford intermediate tert-butyl 5-(3-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (94 mg, 0.146 mmol, 55% yield). Then, this intermediate was resolved into its constituent enantiomers in a manner similar to that of ER-890044 (Section A) to afford tert-butyl 5-(3-((5S,7R)-5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (33 mg, 0.051 mmol) and tert-butyl 5-(3-((5R,7S)-5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (33 mg, 0.051 mmol). Then, intermediate tert-butyl 5-(3-((5S,7R)-5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (22 mg, 0.034 mmol) was treated with HCl in a manner similar to that of example ER-897560 to afford the desired product ER-896386 (19 mg, 96% yield).

reactant | 3-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoic acid | 0.266 mmol, 119 mg | COC=1C=C(C=CC1OC)C1NC=2N(C(C1)C(F)(F)F)N=C(C2)C=2C=C(C(=O)O)C=CC2 | C22H20F3N3O4
reactant | tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 1.06 mmol, 226 mg | C1N(CC2C1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
product | tert-butyl 5-(3-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 0.146 mmol, 94 mg, 55% yield | COC=1C=C(C=CC1OC)C1NC=2N(C(C1)C(F)(F)F)N=C(C2)C=2C=C(C(=O)N1CC3C(C1)CN(C3)C(=O)OC(C)(C)C)C=CC2 | C33H38F3N5O5
